US04335054
The procedure described in Example 28 is repeated, except that 8.35 g (0.05 mol) of cinnamyl chloride and 5.4 g (0.0625 mol) of methyl acrylate are used. After a reaction time of 50 hours at 120° C., 6.10 g (0.0325 mol) of methyl 5-phenyl-2.4-pentadienecarboxylate are obtained, corresponding to a yield of 65% of theory; melting point 71° C.

reactant | cinnamyl chloride | 0.05 mol, 8.35 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
reactant | methyl acrylate | 0.0625 mol, 5.4 g | C(C=C)(=O)OC | C4H6O2
product | methyl 5-phenyl-2.4-pentadienecarboxylate | 0.0325 mol, 6.10 g, yield of 65% | C1(=CC=CC=C1)C=CC=CCC(=O)OC | C13H14O2
